US09328138B2
Step 1: 1-[({[(1R,2R)-2-(pent-4-yn-1-yl)cyclopropyl]oxy}carbonyl)oxy]pyrrolidine-2,5-dione
To a solution of (1R,2R)-2-(pent-4-en-1-yl)cyclopropanol (See International Patent Application Publication No. WO08/057209) (2.13 g; 70% wt) in acetonitrile (20 ml) was added pyridine (1.5 ml), followed by N,N′-disuccinimidyl carbonate (3.74 g) and a crystal of DMAP. The mixture was stirred at 40° C. overnight. After cooling to room temperature, the reaction mixture was diluted with ether and washed with HCl 1N, water and brine and dried over sodium sulfate. The organic layer was filtered and concentrated to provide the desired product (2.88 g) as an oil. 1H NMR (500 MHz, CDCl3): δ (ppm) 4.06-4.03 (m, 1H), 2.87 (s, 4H), 2.28-2.25 (m, 2H), 1.98-1.97 (m, 1H), 1.72-1.65 (m, 2H), 1.46-1.40 (m, 2H), 1.31-1.24 (m, 1H), 1.12-1.08 (m, 1H), 0.72-0.68 (m, 1H).

reactant | (1R,2R)-2-(pent-4-en-1-yl)cyclopropanol | C(CCC=C)[C@H]1[C@@H](C1)O | C8H14O
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | N,N′-disuccinimidyl carbonate | 3.74 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | 1-[({[(1R,2R)-2-(pent-4-yn-1-yl)cyclopropyl]oxy}carbonyl)oxy]pyrrolidine-2,5-dione | 2.88 g | C(CCC#C)[C@H]1[C@@H](C1)OC(=O)ON1C(CCC1=O)=O | C13H15NO5
